US07652049B2
3,4-Dihydro-2H-pyran (51.9 mg, 56 μL, 0.617 mmol) was added to a stirred solution of p-toluenesulfonic acid (2.3 mg, 0.0123 mmol) and 2′-(bromomethyl)-4-fluoro-5-isopropyl-2-methoxy-4′-(trifluoromethyl)biphenyl-3-ol (52.0 mg, 0.123 mmol) in dry CH2Cl2 (6.1 mL) at room temperature under N2 and the reaction was stirred overnight. The reaction mixture was diluted with CH2Cl2 (45 mL) and washed with saturated NaHCO3 (5 mL) and 30% saturated Na2SO3 (5 mL), dried (Na2SO4) and concentrated in vacuo to give the crude product. This was purified by flash chromatography (Si, 12×160 mm, 0-40% EtOAc in hexanes gradient) to afford 2-{[2′-(bromomethyl)-4-fluoro-5-isopropyl-2-methoxy-4′-(trifluoromethyl)biphenyl-3-yl]oxy}tetrahydro-2H-pyran. Rf=0.59 (20% EtOAc in hexanes). 1H NMR (600 MHz, CDCl3) δ 7.82 (s, 1H), 7.60 (d, J=7.0 Hz, 1H), 7.41 (d, J=8.0 Hz, 1H), 6.67 (d, J=7.8 Hz, 1H), 5.77 (s, 1H), 4.97 (dd, J=4.9, 2.9 Hz, 1H), 4.49 (d, J=9.8 Hz, 1H), 4.37 (d, J=9.8 Hz, 1H), 3.89-3.87 (m, 1H), 3.61-3.49 (m, 1H), 3.46 (s, 3H), 3.27-3.21 (m, 1H), 1.89-1.83 (m, 1H), 1.78-1.70 (m, 1H) 1.64-1.48 (m, 3H), 1.26 (d, J=6.8 Hz, 6H).

reactant | 3,4-Dihydro-2H-pyran | 0.617 mmol, 56 μL, 51.9 mg | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid | 0.0123 mmol, 2.3 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 2′-(bromomethyl)-4-fluoro-5-isopropyl-2-methoxy-4′-(trifluoromethyl)biphenyl-3-ol | 0.123 mmol, 52.0 mg | BrCC1=C(C=CC(=C1)C(F)(F)F)C1=C(C(=C(C(=C1)C(C)C)F)O)OC | C18H17BrF4O2
solvent | CH2Cl2 | 6.1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 45 mL | C(Cl)Cl | CH2Cl2
product | 2-{[2′-(bromomethyl)-4-fluoro-5-isopropyl-2-methoxy-4′-(trifluoromethyl)biphenyl-3-yl]oxy}tetrahydro-2H-pyran | BrCC1=C(C=CC(=C1)C(F)(F)F)C1=C(C(=C(C(=C1)C(C)C)F)OC1OCCCC1)OC | C23H25BrF4O3
